US07482341B2
[6-(Biphenyl-4-sulfonylamino)-pyridin-2-yl]-acetic acid (0.35 g) in acetonitrile (5 mL) was treated at RT with N,N-ethyldiisopropylamine (0.16 mL), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP, 0.252 g) then diethylamine (0.05 mL), and the mixture was stirred at RT for 16 h. It was then partitioned between cold diluted aqueous HCl and AcOEt, the layers were separated, the organic layer dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (heptane/EtOAc 1:1) to give 2-[6-(biphenyl-4-sulfonylamino)-pyridin-2-yl]-N,N-diethyl-acetamide as a yellow solid (0.168 g). MS (ESI−): 422.2 ([M−H]−).

reactant | [6-(Biphenyl-4-sulfonylamino)-pyridin-2-yl]-acetic acid | 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=CC(=N1)CC(=O)O)C1=CC=CC=C1 | C19H16N2O4S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.252 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethylamine | 0.05 mL | C(C)NCC | C4H11N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-[6-(biphenyl-4-sulfonylamino)-pyridin-2-yl]-N,N-diethyl-acetamide | 0.168 g | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=CC(=N1)CC(=O)N(CC)CC)C1=CC=CC=C1 | C23H25N3O3S
